US08247429B2
2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride
A mixture of ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate (140 mg, 0.487 mmol) in 12M hydrochloric acid (5 mL) was stirred at 100° C. for 2 days, and concentrated under reduced pressure to give the title compound. The obtained title compound was used for the reaction of Example 18 without purification.

reactant | ethyl 9-(2-aminoethyl)-2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridine-1-carboxylate | 0.487 mmol, 140 mg | NCCC1CCC2=C1C=1N(C=C2)N=C(C1C(=O)OCC)C | C16H21N3O2
reactant | hydrochloric acid | 12M, 5 mL | Cl | ClH
product | 2-(2-methyl-8,9-dihydro-7H-cyclopenta[c]pyrazolo[1,5-a]pyridin-9-yl)ethanamine hydrochloride | Cl.CC1=NN2C(C3=C(C=C2)CCC3CCN)=C1 | InChI=1S/C13H17N3.ClH/c1-9-8-12-13-10(4-6-14)2-3-11(13)5-7-16(12)15-9;/h5,7-8,10H,2-4,6,14H2,1H3;1H
